US05554607
1-Ethyl-3-(2-tolyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 7.4 g of 2-tolyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. Purification was achieved through crystallization from ethanol. Title compound (3.6 g) was obtained as a creamy solid, m.p. 105°-108° C. Anal. Calcd. for. C12H14N2O S: C, 61.51; H, 6.02; N, 11.93. Found: C, 61.22; H, 5.96; N, 11.89. Mass spectrum (EI, M.+) m/z 234.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 2-tolyl-isothiocyanate | 7.4 g | C=1(C(=CC=CC1)N=C=S)C | C8H7NS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-(2-tolyl)-2-thioxo-imidazolidin-4-one | 3.6 g | C(C)N1C(N(C(C1)=O)C1=C(C=CC=C1)C)=S | C12H14N2OS
